Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline
 
Attending: ___.
 
Chief Complaint:
back pain/weakness
 
Major Surgical or Invasive Procedure:
NG tube
EGD

 
History of Present Illness:
The patient is an ___ year old male with h/o spinal stenosis, 
COPD
here with weakenss, R hip pain, incontinence and decreased po
intake and altered mental status. Febrile in ED 102.4. UA
positive for UTI thus admitted. In ED per ___ pt able to ambulate
thus not concerned for acute spine nor hip pathology. 
Given ceftriaxone, APAP and 2L NS in ED. 
+ cough x 1- ___ years productive of yellow phlegm
+ constipation
The symptom that alarmed him the most was his decreased 
mobility.
His dtr called the ambulance.
 
Past Medical History:
PROSTATIC HYPERTROPHY - BENIGN 
HYPERTENSION - ESSENTIAL 
SPINAL STENOSIS - LUMBAR 
CUBITAL CANAL COMPRESSION-R 
SYNCOPE 
NEUROPATHY - PERIPH, UNSPEC 
STROKE, UNSPEC 
Osteoporosis 
History of colonoscopy with polypectomy 
OPIOID AGREEMENT 
Tobacco abuse 
Carotid artery disease 
Anemia 
ENROLLED - CKD OUTREACH PROG MAILINGS (NOT DX FOR PROB LIST 
ONLY)

Advance directive in chart 
Mild cognitive impairment 
COPD, severe 
ENROLLED - PRIMARY CARE CASE MANAGEMENT (PCCM) (NOT DX, FOR PROB
LIST ONLY) 
Lumbar facet arthropathy 
 
Social History:
___
Family History:
AMILY HISTORY:
Both of his parents died of heart disease.
 
Physical Exam:
PHYSICAL EXAM: 
VITAL SIGNS:
98.9, 156/94, 103, 20. 94% on RA 
PAIN SCORE ___ in hands
GENERAL:  elderly male laying in bed, pleasant, lucid when he is
awake but keeps falling asleep. 
Grooming: poor
Mentation: inattentive  
2. Eyes: [] WNL 
4-> 3 mm barely reactive
EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [X] WNL
[X] Regular  [] Tachy  [x] S1 [X] S2 [] Systolic Murmur     /6,
Location:
[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
1+ DPP b/l
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [ ]
Diminished breath sounds throughout but clear
6. Gastrointestinal [ ] WNL
[X] Soft [-] Rebound [] No hepatomegaly  [] Non-tender [] Tender
[] No splenomegaly
[] Non distended  [] distended  [] bowel sounds Yes/No  []
Rectal:no stool appreciated at finger tip when rectal tone
assessed.
7. Musculoskeletal-Extremities [] WNL
___ strength in b/l upper and lower extremities
Preserved rectal tone
No saddle anesthesia
8. Neurological [] WNL
[ X] Alert and Oriented x 1 [ ] Romberg: Positive/Negative  [ X]
CN II-XII intact  [ ] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [ +] Delirious/confused  [ ] Asterixis
Present/Absent  [ ] Position sense WNL
[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [X] WNL
[x] Warm  [x] Dry  [] Cyanotic [] Rash:
none/diffuse/face/trunk/back/limbs  

12. Genitourinary [] WNL

Discharge exam:
Tmax 99.2  97.9  Tc afeb 119/72 HR 85 RR 16 94%RA
General:  in NAD, lying in bed.
HEENT:  OP moist, no LAD.
Lungs lungs without crackles, no wheezes.
CV RRR without murmurs
Abdomen soft, slightly distended.  
Ext:  no edema
Neuro:  alert/oriented X3, answering all questions appropriately

 
Pertinent Results:
___ 08:46PM URINE  HOURS-RANDOM
___ 08:46PM URINE  HOURS-RANDOM
___ 08:46PM URINE  UHOLD-HOLD
___ 08:46PM URINE  GR HOLD-HOLD
___ 08:46PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 08:46PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-LG
___ 08:46PM URINE  RBC-1 WBC-66* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:50PM   GLUCOSE-114* UREA N-19 CREAT-1.3* SODIUM-136 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-24 ANION GAP-14
___ 06:50PM   estGFR-Using this
___ 06:50PM   WBC-13.6* RBC-5.55 HGB-15.5 HCT-48.5 MCV-87 
MCH-28.0 MCHC-32.0 RDW-13.6
___ 06:50PM   NEUTS-87.5* LYMPHS-7.0* MONOS-3.8 EOS-1.1 
BASOS-0.5
___ 06:50PM   PLT COUNT-193

CXR on admission:
IMPRESSION:
1.  Generalized interstitial abnormality bilaterally may reflect 
history of COPD. There is no convincing evidence of pneumonia.
2.  Apparent widening of the mediastinum is likely artifactual 
due to lordoticpositioning.  
.
CXR ___:
IMPRESSION:  
  
As compared to the previous radiograph, the nasogastric tube has 
been removed. The stomach is moderately overinflated. The size 
of the cardiac silhouette is normal. There is moderate 
tortuosity of the thoracic aorta. Unchanged appearance of the 
lung parenchyma, without evidence of pneumonia, pulmonary edema 
or larger pleural effusions. 

URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
      BETA STREPTOCOCCUS GROUP B.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------   <=___bdominal CT scan ___:

1. Markedly distended stomach with appearance concerning for a 
gastric outlet obstruction. There is a transition at the level 
of the junction of the first and second portions of the 
duodenum. However, no underlying mass or inflammatory process is 
identified in this area to explain the gastric 
distension. Further evaluation with endoscopy should be 
considered. 
2. Multiple bilateral lower lobe pulmonary nodules, largest in 
the right lower lobe measuring up to 1.1 cm in size with a 
concerning appearance. Further evaluation with dedicated chest 
CT is recommended to image the remainder of the chest. 

EGD: 
Friability and erythema in the fundus
Small amount of retained food particles in stomach.
The gastroscope passed easily into the stomach and into duodenum 
through D3.
Photographs not captured because of equipment malfunction.
Otherwise normal EGD to third part of the duodenum

Discharge labs:

___ 01:45AM BLOOD WBC-8.3 RBC-4.73 Hgb-13.5* Hct-40.2 
MCV-85 MCH-28.4 MCHC-33.5 RDW-13.6 Plt ___
___ 01:00AM BLOOD Glucose-94 UreaN-17 Creat-1.1 Na-141 
K-3.8 Cl-104 HCO3-28 AnGap-13
___ 05:20AM URINE Hours-RANDOM UreaN-218 Creat-26 Na-67 
K-10 Cl-54
 
Brief Hospital Course:
Pt is a ___ y.o male with h.o COPD, spinal stenosis, BPH, CAD who 
presents with weakness, confusion, and incontinence, found to 
have UTI, hospitalization complicated by gastric outlet 
obstruction as well as acute encephalopathy.

Acute Issues:
#Sepsis due to urinary tract infection, with associated acute 
encephalopathy -likely accounted for weakness, confusion, 
incontinence. Pt was initially given IV ceftriaxone which was 
converted to PO cipro after culture returned with pan sensitive 
pseudomonas. Foley placed given PVR ~600 and pt unable to void. 
Plan to tx for complicated UTI for one week, s/p treatment..  

#urinary incontinence and urinary retention with h.o 
BPH-retention likely due to BPH, incontinence likely due to 
overflow and UTI. We placed a foley and started flomax. He will 
need a voiding trial at rehab and  Urology f/u as outpt.  

#gastric outlet obstruction- He developed nausea on HD #3, and 
was found to have a gastric outlet obstruction.  Symptoms were 
alleviated by NG tube for 8 hours, he refused longer.  He 
underwent CT to evaluate the cause, with no mass identified, and 
EGD with free passage of the scope into the duodenum.  The 
etiology of the obstruction was unclear, but he was 
symptomatically improved, tolerating a low residue diet.  He 
should have GI follow up to further evaluate both for symptoms 
and the cause.

Hypertension:  Noted to have hypertension, and started 
amlodipine.  Further review of records reveal orthostasis, and 
amlodipine will be discontinued at discharge.

Chronic issues:
#hyperlipidemia-continued statin.

#neuropathy/chronic pain-oxycodone and lyrica restarted as 
mental status improved

#COPD/chronic bronchitis-no acute flare. Continue outpt 
spiriva/inhalers.  HE did have episode of hypoxia, improved 
without intervention, with no findings on chest xray.

#GERD-PPI
.
Transitional issues:
GI follow for gastric outlet obstruction
Chest CT for lung nodules, discussed with PCP (already known 
with review of Atrius records)
Voiding trial, urology follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO Frequency is Unknown 
2. Vitamin D 1000 UNIT PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Fluoxetine 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Pregabalin 50 mg PO TID 
7. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
8. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation daily 
9. Omeprazole 40 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Ipratropium Bromide MDI 2 PUFF IH QID 
12. Vitamin B Complex 1 CAP PO DAILY 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
14. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
15. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Ipratropium Bromide MDI 2 PUFF IH QID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
8. Pregabalin 50 mg PO TID 
9. Tiotropium Bromide 1 CAP IH DAILY 
10. Vitamin B Complex 1 CAP PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
13. Alendronate Sodium 70 mg PO WEEKLY 
14. Fluoxetine 10 mg PO DAILY 
15. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation daily 
16. Docusate Sodium 100 mg PO BID 
17. Polyethylene Glycol 17 g PO DAILY 
18. Tamsulosin 0.4 mg PO HS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
urinary tract infection
urinary retention
acute encephalopathy
gastric outlet obstruction

 
Discharge Condition:
Mental Status: Conclear
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Catheter in place - should have voiding trial.

 
Discharge Instructions:
You were admitted with weakness, incontinence and nausea. You 
were found to have a UTI and were given antibiotics with 
improvement in your symptoms. You were retaining urine in your 
bladder and had foley catheter placed. You also likely have a 
viral infection and were treated supportively. You were 
evaluated by physical therapy who recommended rehab after 
discharge.
.
Your blood pressure ran high, as it does at home - but we will 
not treat you with anything to avoid low blood pressures.
 
Followup Instructions:
___